US04921855
To a solution of benzyl 2(S)-[N-(2-thiomorpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate (418 mg) in methanol (5 ml), which was cooled to 0° C., was added 1N sodium hydroxide aqueous solution (1.33 ml). The mixture was stirred at ambient temperature for one hour. After evaporation of methanol, the residual basic aqueous solution was washed with chloroform (5 ml×2). Then the aqueous solution was acidified to pH 2 with 5% hydrochloric acid, and extracted with ethyl acetate (10 ml×2). The extract was washed with water (10 ml) and saturated sodium chloride solution (10 ml), dried over magnesium sulfate, and concentrated under reduced pressure to give 2(S)-[N-(2-thiomorpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionic acid (315 mg).

reactant | benzyl 2(S)-[N-(2-thiomorpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate | 418 mg | S1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30N2O5S
reactant | sodium hydroxide | 1N, 1.33 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2(S)-[N-(2-thiomorpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionic acid | 315 mg | S1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)O)CC1=CC=CC=C1 | C18H24N2O5S
